US05359051
Imidazole was treated with dimethyl amino sulfonyl chloride providing 1-(dimethylaminosulfonyl)-imidazole, which was subsequently treated with n-butyl lithium and t-butyldimethylsilyl chloride to afford 1-(dimethylaminosulfonyl)-2-(t-butyldimethylsilyl)-imidazol e. This material was treated with n-butyllithium and tri-n-butyltin chloride to afford the target compound.

reactant | Imidazole | N1C=NC=C1 | C3H4N2
reactant | dimethyl amino sulfonyl chloride | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
product | 1-(dimethylaminosulfonyl)-imidazole | CN(S(=O)(=O)N1C=NC=C1)C | C5H9N3O2S
